US05708008
5-methanesulfonylamino-3-(1-butyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
Beginning with 1.0 gm (4.76 mMol) 5-methanesulfonylamino-1H-indole and 0.96 gm (6.2 mMol) 1-butyl-4-piperidone, 1.4 gm (84.8%) of the title compound were recovered as a yellow powder.

reactant | 5-methanesulfonylamino-1H-indole | 4.76 mMol, 1.0 gm | CS(=O)(=O)NC=1C=C2C=CNC2=CC1 | C9H10N2O2S
reactant | 1-butyl-4-piperidone | 6.2 mMol, 0.96 gm | C(CCC)N1CCC(CC1)=O | C9H17NO
product | 5-methanesulfonylamino-3-(1-butyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 1.4 gm, 84.8% | CS(=O)(=O)NC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)CCCC | C18H25N3O2S
